2138-07-16 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2138-7-15**] 03:25 PM
 BLOOD CULTURED - At [**2138-7-15**] 03:30 PM
 INVASIVE VENTILATION - START [**2138-7-15**] 05:00 PM
 ARTERIAL LINE - START [**2138-7-15**] 05:44 PM
 MULTI LUMEN - START [**2138-7-15**] 05:45 PM
   - pt intubated for bronch, but intubation complicated by damaged ET
   tube. Pt then coded, with sustained VT and required cardioversion with
   100 joules, but had palpable pulse during episode. Pt became
   hypotensive with his hypoxia and required neo, ET tube exchanged. Also
   given epi 0.1mg. Mag was low at 1.6 and given 4g IV
   - give 1.25 units of blood, before intubation, had temp of 100.6 during
   2nd unit, was given tylenol and blood stopped; hct still 19 2 more
   units ordered and given after intubation
   - Femoral a-line and central line placed
   - Low UO, given IVF, Will need urology to place catheter in AM,
   currently has condom cath, urinated during the night
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Vancomycin - [**2138-7-15**] 10:09 AM
   Levofloxacin - [**2138-7-15**] 12:12 PM
   Cefipime - [**2138-7-16**] 12:59 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-7-15**] 01:53 PM
   Lorazepam (Ativan) - [**2138-7-15**] 02:23 PM
   Midazolam (Versed) - [**2138-7-16**] 05:43 AM
   Fentanyl - [**2138-7-16**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-16**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.2
C (97.2
   HR: 111 (87 - 137) bpm
   BP: 93/60(71) {73/27(40) - 130/78(91)} mmHg
   RR: 22 (19 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  6,413 mL
                                                                  1,929 mL
   PO:
           TF:
   IVF:
                                                                  5,759 mL
                                                                  1,407 mL
   Blood products:
                                                                    655 mL
                                                                    522 mL
   Total out:
                                                                  1,060 mL
                                                                    450 mL
   Urine:
                                                                  1,060 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,353 mL
                                                                  1,479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/37/171/21/-1
   Ve: 11 L/min
   PaO2 / FiO2: 428
   Physical Examination
   97.2    110    117/76    38    99% 2L
   Very thin, pale man in moderate respiratory distress.  Otherwise
   appears comfortable but very sleepy.
   +Temporal wasting.  No scleral icterus.  EOMI.
   Face symmetric.  OP clear, MMM.
   Neck supple, no JVD, no thyroid enlargement, no palpable cervical
   adenopathy.
   S1, S2, regular tachycardia, hyperdynamic PMI, no murmur.
   Lungs with diffuse coarse crackles throughout, expiratory wheeze R>L.
   Tachypneic and appears to be using accessory muscles although
   respiratory pattern somewhat affected by history of excision of part of
   sternum.
   +BS, soft, not tender or distended.  + hepatomegaly.
   No LE edema.  Distal pulses palpable and extremities warm.
   Skin is very pale without appreciable rash.
   EKG:
   Sinus tachycardia at 116 with normal axis and intervals.  Flate T waves
   inferiorly.  No active ischemia.
   Labs / Radiology
   106 K/uL
   7.6 g/dL
   86 mg/dL
   0.4 mg/dL
   21 mEq/L
   4.9 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   21.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2138-7-14**]  10:53 PM
                             [**2138-7-14**]  11:48 PM
                             [**2138-7-15**]  07:21 AM
                             [**2138-7-15**]  05:00 PM
                             [**2138-7-15**]  05:04 PM
                             [**2138-7-15**]  05:26 PM
                             [**2138-7-15**]  05:43 PM
                             [**2138-7-15**]  10:30 PM
                             [**2138-7-16**]  04:04 AM
                             [**2138-7-16**]  06:13 AM
   WBC
   7.7
   7.2
   4.4
   Hct
   19.9
   19.7
   19.7
   21.8
   Plt
   157
   123
   106
   Cr
   0.4
   0.4
   0.4
   TropT
   0.03
   0.02
   TCO2
   25
   22
   22
   23
   Glucose
   94
   150
   141
   117
   86
   Other labs: PT / PTT / INR:16.7/32.7/1.5, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:44/46, Alk Phos / T Bili:251/1.3,
   Lactic Acid:1.1 mmol/L, LDH:302 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   41yo gentleman with metastatic melanoma admitted with likely
   post-obstructive pneumonia.
   # Shortness of breath and fevers:
   Likely from post-obstructive pneumonia that was incompletely treated
   with recent antibiotics.  Other DDx includes PE (CTA prelim read is
   negative), pericardial effusion (unlikely given lack of sizable
   effusion on CT scan), viral infection (does not describe viral
   prodrome).  Has not dropped his blood pressures, so does not have
   evidence of sepsis at present.
   - cover broadly with vanc/cefepime/levofloxacin given recent
   hospitalization
   - f/u sputum, urine, and blood cultures
   - discuss possible flexible bronchoscopy with IP in AM (already aware
   of pt)
   - f/u final CTA chest read
   - supportive care with albuterol, atrovent
   - check ABG to confirm he is not retaining CO2 given his tiredness
   # Metastatic melanoma:
   Currently receiving palliative XRT to hip mets.  Is also on sutent per
   primary oncologist.  Apparently, he was essentially discharged to
   hospice after his recent hospitalization and now is asking to be FULL
   code.  Family and patient are aware of advanced state of disease.
   - appreciate oncology recs
   - will likely continue sutent tomorrow pending discussion with onc
   - contact rad/onc in AM to discuss continuing XRT as inpatient
   # Sinus tachycardia:
   Patient has had baseline sinus tachycardia, likely from his underlying
   malignancy or continued chemotherapy.  He was seen by cardiology, who
   recommended nodal blocking agents.
   - check TSH (last checked in [**2137**])
   - hold metoprolol for now until it is clear he is not dropping his
   pressures with his infection
   - monitor on tele
   # Pain control:
   Patient has recently had several episodes where he becomes extremely
   sleepy after ativan/fentanyl patch/dilaudid.  On the other hand, his
   wife reports that he develops withdrawal symptoms if all narcotics are
   stopped.
   - start very low dose fentanyl patch for now
   - oral percocet for breakthrough pain
   - check LFTs in case worsening liver function is responsible for
   prolonged effect of benzodiazepine
   - monitor respiratory status
   # Loose stool:
   Has a h/o bad C diff in the past and was recently on antibiotics.
   - check C diff
   - continue PO vancomycin (will need Abx approval in AM)
   # Hyperkalemia:  recheck
   # Anemia:  baseline Hct 24-28, current hct 28
   - active type and screen
   - check iron studies
   # DM:
   - currently diet controlled at home
   - gentle SSI for now
   # Likely Anxiety:
   - continue lexapro
   - will hold off on writing for ativan for now so that patient can be
   monitored closely with doses (start with minimal dose and would avoid
   giving ativan with narcotics).
   # FEN:  NPO for possible flexible bronchoscopy
   # Access:  two 18g PIVs
   # PPx:  subQ heparin, home PPI
   # Comm:  with patient and wife [**Name (NI) 3445**] [**Telephone/Fax (1) 6692**]
   # Code:  confirmed FULL
   # Dispo:  ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-7-14**] 09:37 PM
   Arterial Line - [**2138-7-15**] 05:44 PM
   Multi Lumen - [**2138-7-15**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-07-17 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   transferred from [**Hospital Unit Name 10**] to MICU green
   ordered for 1 unit PRBC at 5 a.m. on [**7-17**]
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-16**] 12:01 PM
   Vancomycin - [**2138-7-16**] 10:00 PM
   Cefipime - [**2138-7-17**] 01:46 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-7-16**] 07:54 AM
   Midazolam (Versed) - [**2138-7-16**] 12:00 PM
   Fentanyl - [**2138-7-16**] 03:52 PM
   Lansoprazole (Prevacid) - [**2138-7-16**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-17**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 124 (102 - 124) bpm
   BP: 118/53(76) {88/50(62) - 154/149(152)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 2 (2 - 9)mmHg
   Total In:
                                                                  4,553 mL
                                                                    699 mL
   PO:
   TF:
   IVF:
                                                                  3,926 mL
                                                                    699 mL
   Blood products:
                                                                    537 mL
   Total out:
                                                                  1,602 mL
                                                                    370 mL
   Urine:
                                                                  1,602 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,951 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,055 (1,055 - 1,055) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/37/111/21/-5
   Ve: 11.6 L/min
   PaO2 / FiO2: 277
   Physical Examination
   VS: T 98.7 HR 107 (sinus) BP 98/51  RR 27 sating 97% on AC 500 x 18,
   FiO2 of 40%, PEEP 5
   GEN: intubated, sedated, NAD
   HEENT: PERRL, OG tube, ET tube
   CARD: tachycardic, regular rhythm, 3/5 SEM at the USB, hyperdynamic
   precordium
   PULM: scattered ronchi bilaterally anteriorlly and laterally with
   anterior squeaks
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, no c/c/e
   NEURO: PERRL, no response to verbal or painful stimuli
   Labs / Radiology
   134 K/uL
   8.5 g/dL
   81 mg/dL
   0.4 mg/dL
   21 mEq/L
   4.4 mEq/L
   16 mg/dL
   108 mEq/L
   137 mEq/L
   24.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2138-7-15**]  05:26 PM
                             [**2138-7-15**]  05:43 PM
                             [**2138-7-15**]  10:30 PM
                             [**2138-7-16**]  04:04 AM
                             [**2138-7-16**]  06:13 AM
                             [**2138-7-16**]  09:58 AM
                             [**2138-7-16**]  03:52 PM
                             [**2138-7-16**]  07:19 PM
                             [**2138-7-16**]  07:55 PM
                             [**2138-7-17**]  01:32 AM
   WBC
   7.2
   4.4
   5.4
   5.4
   Hct
   19.7
   21.8
   25.7
   26.3
   25.5
   24.8
   Plt
   123
   106
   115
   134
   Cr
   0.4
   0.4
   0.4
   TCO2
   22
   23
   21
   Glucose
   150
   141
   117
   86
   81
   Other labs: PT / PTT / INR:15.9/29.7/1.4, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:31/34, Alk Phos / T Bili:227/0.5,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:302 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   41yo gentleman with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation.
   # Respiratory distress: S/P intubation with complication.  Bleeding
   appears to be tapering off, but transfused overnight.  Fevers and CT
   scan also suggest post-obstructive PNA.
   - Bronchoscopy today to investigate source of blood and possible
   infection
   - Continue vanc/cefepime/levofloxacin given recent hospitalization for
   HAP
   - f/u sputum, urine, and blood cultures
   - supportive care with albuterol, atrovent
   # Metastatic melanoma:
   Currently receiving palliative XRT to hip mets
cannot be radiated on
   [**Hospital Ward Name 1107**].  Holding Sutent. Family and patient are aware of advanced
   state of disease.  Contact primary oncologist
   - appreciate oncology recs
   - hold XRT due to resp status
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on tele
   - low threshold for echo to r/o tamponade
   # Anemia: On admission thought to be secondary to chemotherapy and has
   active hemorrhage. Hemolysis labs negative.
   - bronch today for endobronchial lesion treatment
   - active type and screen, transfused 1 u prbc overnight
   - follow serial HCT, transfusion as necessary especially given low BP
   # Loose stool: Resolved. Monitor.
   # DM: SSI for now
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-7-14**] 09:37 PM
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots, off HSQ given bleeding
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code
discussed with wife today
   Disposition: ICU

2138-07-17 10:08:00 Physician Attending Progress Note
Chief Complaint: Hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   metastatic melanoma widely metastatic with endobronchial lesion which
   bleeds, waiting for IP cauterization today. Post obstructive pneumonia.
   VT in the setting of hypoxemia.
   24 Hour Events:
 BLOOD CULTURED - At [**2138-7-16**] 10:19 AM
 BRONCHOSCOPY - At [**2138-7-16**] 12:00 PM
 ARTERIAL LINE - STOP [**2138-7-16**] 03:30 PM
 ARTERIAL LINE - START [**2138-7-16**] 03:47 PM
 MULTI LUMEN - START [**2138-7-16**] 05:17 PM
 MULTI LUMEN - STOP [**2138-7-16**] 06:14 PM
   Hemoptysis tapered off.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-16**] 12:01 PM
   Cefipime - [**2138-7-17**] 01:46 AM
   Vancomycin - [**2138-7-17**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-16**] 12:00 PM
   Fentanyl - [**2138-7-16**] 03:52 PM
   Lansoprazole (Prevacid) - [**2138-7-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-17**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 114 (102 - 124) bpm
   BP: 109/53(71) {86/50(62) - 154/149(152)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
   CVP: 5 (2 - 9)mmHg
   Total In:
                                                                  4,553 mL
                                                                  1,932 mL
   PO:
   TF:
   IVF:
                                                                  3,926 mL
                                                                  1,497 mL
   Blood products:
                                                                    537 mL
                                                                    375 mL
   Total out:
                                                                  1,602 mL
                                                                    380 mL
   Urine:
                                                                  1,602 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,951 mL
                                                                  1,552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,055 (1,055 - 1,055) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 36 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/37/111/21/-5
   Ve: 13.7 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Bronchial: , Rhonchorous: ), Squeaks at
   both upper lobes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   128 K/uL
   81 mg/dL
   0.4 mg/dL
   21 mEq/L
   4.4 mEq/L
   16 mg/dL
   108 mEq/L
   137 mEq/L
   26.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2138-7-15**]  05:43 PM
                             [**2138-7-15**]  10:30 PM
                             [**2138-7-16**]  04:04 AM
                             [**2138-7-16**]  06:13 AM
                             [**2138-7-16**]  09:58 AM
                             [**2138-7-16**]  03:52 PM
                             [**2138-7-16**]  07:19 PM
                             [**2138-7-16**]  07:55 PM
                             [**2138-7-17**]  01:32 AM
                             [**2138-7-17**]  08:55 AM
   WBC
   7.2
   4.4
   5.4
   5.4
   5.6
   Hct
   19.7
   21.8
   25.7
   26.3
   25.5
   24.8
   26.2
   Plt
   123
   106
   115
   134
   128
   Cr
   0.4
   0.4
   0.4
   TCO2
   22
   23
   21
   Glucose
   141
   117
   86
   81
   Other labs: PT / PTT / INR:15.9/29.7/1.4, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:31/34, Alk Phos / T Bili:227/0.5,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:302 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Microbiology: BAL: ngtd
   CXR, CT : multifocal post obs pneumonia, low ETT but going to OR for
   bronch shortly
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   41 yom melanoma
 metastatic to lung, liver, heart, skin, bone and
   brain; received in transfer from MICU [**Hospital Ward Name 307**] service ([**Hospital Ward Name **]) for
   management of hemoptysis. Has post obstructive pneumonia and
   endobronchial lesion
   - Resp: Interventional Pulmonology evaluation in the OR today. ? IR for
   embolization
   - Anemia: Transfused again today, cycle Hct and INR
   - Hypotension: mild, prn boluses
   -  ID:  Continue antimicrobials. Hx of cdiff, follow closely
   - Pericardial mets: no effusion
   - Brain mets: ask neuro about antiepileptics
   - DM: SSI
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2138-7-14**] 09:37 PM
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Spoke with wife [**Name (NI) 3445**] during rounds
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Underwent debulking of obstructing LUL tumor. Remains on vent.
   Exam notable for low-grade temps, stable BP, tachypnea
   AC 18/500/5/.4
   Intubated, following simple commands
   Coarse vented bs
   Tachy, regular
   Abd benign
   Labs notable for stable anemia, unremarkable chem. 7
   Imaging: CXR stable bilateral infiltrates
   Problems: resp failure, airway obstruction, metastatic melanoma
   Agree with plan to try to wean vent if possible
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2138-7-17**] 14:39 ------

2138-07-18 07:15:00 Physician Resident Progress Note
24 Hour Events:
   - IP recs: procedure successful with APC and tumor removal to open up
   airways. Returned from PACU intubated/paralyzed. Want f/u bronch 2
   weeks, consider photodynamic therapy
   -Attempted to wean vent, pt woke up appropriately, but on [**6-3**] HR to
   140s-150s (sustained), RR to 30-40, 7.27/47/75 so put back on AC
   -Pain overnight, treated with percocet per NGT
   -Held TF to prepare for possible extubation
   -BP to 70s/40s at 2 am, given 500 cc bolus with response to 90s/50s.
   -HCT came back 23.8 and transfused 2 u prbc overnight
   -Continued bloody secretions with clots overnight
   -Need to clarify if he needs to be on seizure ppx for brain metastases.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-16**] 12:01 PM
   Vancomycin - [**2138-7-17**] 09:02 PM
   Cefipime - [**2138-7-18**] 12:14 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2138-7-17**] 08:00 AM
   Fentanyl - [**2138-7-17**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 112 (104 - 138) bpm
   BP: 120/62(81) {79/46(58) - 152/98(116)} mmHg
   RR: 19 (19 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 14 (5 - 276)mmHg
   Total In:
                                                                  2,468 mL
                                                                  1,208 mL
   PO:
   TF:
                                                                     12 mL
                                                                      8 mL
   IVF:
                                                                  2,021 mL
                                                                    681 mL
   Blood products:
                                                                    375 mL
                                                                    519 mL
   Total out:
                                                                  1,205 mL
                                                                    480 mL
   Urine:
                                                                  1,205 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,263 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 376 (376 - 376) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.41/34/102/21/-1
   Ve: 10.8 L/min
   PaO2 / FiO2: 255
   Physical Examination
   GEN: intubated, following commands
   HEENT: PERRL, OG tube, ET tube
   CARD: tachycardic, regular rhythm, 3/5 SEM at the USB, hyperdynamic
   precordium
   PULM: scattered ronchi bilaterally anteriorlly and laterally with
   anterior squeaks
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, no c/c/e
   NEURO: following commands
   Labs / Radiology
   138 K/uL
   8.2 g/dL
   93 mg/dL
   0.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   23.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2138-7-16**]  03:52 PM
                             [**2138-7-16**]  07:19 PM
                             [**2138-7-16**]  07:55 PM
                             [**2138-7-17**]  01:32 AM
                             [**2138-7-17**]  08:55 AM
                             [**2138-7-17**]  02:44 PM
                             [**2138-7-17**]  03:31 PM
                             [**2138-7-17**]  05:10 PM
                             [**2138-7-17**]  05:59 PM
                             [**2138-7-18**]  02:29 AM
   WBC
   5.4
   5.6
   5.4
   Hct
   26.3
   25.5
   24.8
   26.2
   27.7
   23.8
   Plt
   134
   128
   138
   Cr
   0.4
   0.3
   0.3
   TCO2
   21
   21
   22
   22
   Glucose
   81
   97
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   [**7-14**], [**7-15**], [**7-16**] Blood cultures NGTD
   [**7-17**] LUL tumor pathology pending
[**2138-7-16**] 12:13 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2138-7-16**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Final [**2138-7-17**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary):
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory distress: Fevers and CT scan also suggest
   post-obstructive PNA. s/p bronch on [**7-18**]
   - continue vanc/cefepime/levofloxacin given recent hospitalization for
   HAP x 10 days (day 1 [**7-14**])
   - f/u all culture data
   - q6 hour Hct
 if <30, transfuse pRBC
   - albuterol and atrovent
   - hold on lasix until intravascularly repleted
   - f/u resistance and compliance measurments
   - daily RSBI, SBT trials
   - d/c propofol; change to fentanyl and versed
   # Metastatic melanoma:
   Currently receiving palliative XRT to hip mets
cannot be radiated on
   [**Hospital Ward Name 1107**].  Holding Sutent. Family and patient are aware of advanced
   state of disease.  Contact primary oncologist
   - appreciate oncology recs
   - hold XRT due to resp status
   - ? sz prophylaxis; will talk to neuro-onc
   - repeat CT chest on Monday if no clinical improvement
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on tele
   - low threshold for echo to r/o tamponade
   # Anemia: On admission thought to be secondary to chemotherapy and has
   active hemorrhage. Hemolysis labs negative.
   - active type and screen
   - follow serial HCT, transfusion to keep Hct>30
   # Pain/hiccups:
   - continue fentanyl/versed boluses
   - d/c propofol
   # Loose stool: Resolved. Monitor.
   # DM: SSI for now
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: hold HSQ given bleeding
   Stress ulcer: PPI
   VAP:  HOB, chlorhex
   Comments:
   Communication:  Comments: with wife
   [**Name (NI) 129**] status: FULL
   Disposition: ICU

2138-07-18 09:23:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   endobronchial lesions removed with cryo
   24 Hour Events:
 OR SENT - At [**2138-7-17**] 10:15 AM
 OR RECEIVED - At [**2138-7-17**] 12:15 PM
   unable to extubate yesterday due to tachypnea and tachycardia.
   transfuse today for dropped hct
   bp improved with prbc infusion
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-16**] 12:01 PM
   Cefipime - [**2138-7-18**] 12:14 AM
   Vancomycin - [**2138-7-18**] 07:57 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2138-7-17**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-18**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 121 (104 - 138) bpm
   BP: 110/62(78) {79/46(58) - 152/98(116)} mmHg
   RR: 25 (19 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
   CVP: 14 (5 - 276)mmHg
   Total In:
                                                                  2,468 mL
                                                                  1,731 mL
   PO:
   TF:
                                                                     12 mL
                                                                      8 mL
   IVF:
                                                                  2,021 mL
                                                                    913 mL
   Blood products:
                                                                    375 mL
                                                                    750 mL
   Total out:
                                                                  1,205 mL
                                                                    510 mL
   Urine:
                                                                  1,205 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,263 mL
                                                                  1,221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 376 (376 - 376) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: RR > 40
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.41/34/102/21/-1
   NIF: -12 cmH2O
   Ve: 11.8 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Bronchial: , Rhonchorous:
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: verbal commands
   Labs / Radiology
   8.2 g/dL
   138 K/uL
   93 mg/dL
   0.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   23.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2138-7-16**]  03:52 PM
                             [**2138-7-16**]  07:19 PM
                             [**2138-7-16**]  07:55 PM
                             [**2138-7-17**]  01:32 AM
                             [**2138-7-17**]  08:55 AM
                             [**2138-7-17**]  02:44 PM
                             [**2138-7-17**]  03:31 PM
                             [**2138-7-17**]  05:10 PM
                             [**2138-7-17**]  05:59 PM
                             [**2138-7-18**]  02:29 AM
   WBC
   5.4
   5.6
   5.4
   Hct
   26.3
   25.5
   24.8
   26.2
   27.7
   23.8
   Plt
   134
   128
   138
   Cr
   0.4
   0.3
   0.3
   TCO2
   21
   21
   22
   22
   Glucose
   81
   97
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: RUL improved aeration
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   41 yom melanoma
 metastatic to lung, liver, heart, skin, bone and
   brain; s/p endobronchial core for hemoptysis. Has post obstructive
   pneumonia.
   - Resp: s/p IP procedure yesterday. Still suctioning out clots from
   eTT. Unable to wean off [**Year (4 digits) 523**] due to RR> 40.. Continue nebs atc. Lasix
   for diuresis with blood to get Hct upto 30. Consider repeat CT on
   Sunday night. Switch propofol to versed/fentanyl. Daily RSBI and
   mechanics. Wife updated on options including commando extubation,
   bipap, trach.
   - Anemia: Still bleeding. INR and plt good. Hct goal 30.
   - Fluid status:  Would like to start diuresis once SBP improves. Switch
   propofol to versed/fentanyl.
   -  ID:  Continue antimicrobials. Hx of cdiff, follow closely
   - Pericardial mets: no effusion
   - Brain mets: ask neuro about antiepileptics
   - DM: SSI
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  ssi
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Wife updated during rounds.
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   No significant change on the [**Year (4 digits) 523**]. Tried PS 5/5 again this morning and
   did not tolerate it based on tachycardia and tachypnea.
   Exam notable for Tmax: 36.8
C (98.2
F)   Tcurrent: 36.8
C (98.2
F)   HR: 121 (104 - 138) bpm  BP: 110/62(78) {79/46(58) - 152/98(116)}
   mmHg  RR: 25 (19 - 40) insp/min   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)   CVP: 14 (5 - 276)mmHg   fluid
   balance:   1,263 mL   1,221 mL
   CMV 18/500/5/.4     Plateau: 20 cmH2O
   7.41/34/102         Ve: 11.8 L/min  PaO2 / FiO2: 255
   Intubated, sedated, thin
   Following simple commands
   Coarse vented bs
   Tachy
   Abd benign
   Extreme thin
   Labs reviewed and recorded above
   Imaging:  CXR stable bilateral opacities
   Problems:  respiratory failure, metastatic melanoma
   Agree with plan to continue to try to liberate from [**Last Name (LF) 523**], [**First Name3 (LF) 116**] try
   steroids to reduce airway inflammation, need to discuss comfort
   measures with wife
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2138-7-18**] 14:38 ------

2138-07-19 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - transfused 2 pRBC --> Hct 29.3
   - per primary oncologist, no need to place on anti-sz meds unless
   actual seizure
   - d/c propofol --> changed to versed/fentanyl
   - started tube feeds, holding after MN
   - steroids 125 q8 hours started
   - IP recs: diuresis, Abx 10-14 days
   - IV lasix 10 x 1 at 5:30 p.m. [**7-17**]
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-18**] 12:00 PM
   Vancomycin - [**2138-7-18**] 09:36 PM
   Cefipime - [**2138-7-19**] 12:52 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 99 (93 - 128) bpm
   BP: 111/62(77) {100/51(68) - 144/75(97)} mmHg
   RR: 19 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  3,118 mL
                                                                    320 mL
   PO:
   TF:
                                                                    613 mL
                                                                     47 mL
   IVF:
                                                                  1,605 mL
                                                                    243 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,200 mL
                                                                    240 mL
   Urine:
                                                                  2,200 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    918 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/40/63/25/1
   Ve: 9.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GEN: intubated, following commands
   HEENT: PERRL, OG tube, ET tube
   CARD: tachycardic, regular rhythm, 3/5 SEM at the USB, hyperdynamic
   precordium
   PULM: scattered ronchi bilaterally anteriorlly and laterally with
   anterior squeaks
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, no c/c/e
   NEURO: following commands
   Labs / Radiology
   118 K/uL
   10.3 g/dL
   186 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   14 mg/dL
   104 mEq/L
   137 mEq/L
   30.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2138-7-17**]  08:55 AM
                             [**2138-7-17**]  02:44 PM
                             [**2138-7-17**]  03:31 PM
                             [**2138-7-17**]  05:10 PM
                             [**2138-7-17**]  05:59 PM
                             [**2138-7-18**]  02:29 AM
                             [**2138-7-18**]  11:25 AM
                             [**2138-7-18**]  05:56 PM
                             [**2138-7-19**]  02:53 AM
                             [**2138-7-19**]  03:15 AM
   WBC
   5.6
   5.4
   5.6
   Hct
   26.2
   27.7
   23.8
   29.3
   31.8
   30.2
   Plt
   128
   138
   118
   Cr
   0.3
   0.3
   0.3
   TCO2
   21
   22
   22
   27
   Glucose
   97
   93
   186
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory distress: Fevers and CT scan also suggest
   post-obstructive PNA. s/p bronch on [**7-18**]
   - continue vanc/cefepime/levofloxacin given recent hospitalization for
   HAP x 10 days (day 1 [**7-14**])
   - f/u all culture data
   - q6 hour Hct
 if <30, transfuse pRBC
   - albuterol and atrovent
   - hold on lasix until intravascularly repleted
   - f/u resistance and compliance measurments
   - daily RSBI, SBT trials
   - d/c propofol; change to fentanyl and versed
   # Metastatic melanoma:
   Currently receiving palliative XRT to hip mets
cannot be radiated on
   [**Hospital Ward Name 1107**].  Holding Sutent. Family and patient are aware of advanced
   state of disease.  Contact primary oncologist
   - appreciate oncology recs
   - hold XRT due to resp status
   - ? sz prophylaxis; will talk to neuro-onc
   - repeat CT chest on Monday if no clinical improvement
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on tele
   - low threshold for echo to r/o tamponade
   # Anemia: On admission thought to be secondary to chemotherapy and has
   active hemorrhage. Hemolysis labs negative.
   - active type and screen
   - follow serial HCT, transfusion to keep Hct>30
   # Pain/hiccups:
   - continue fentanyl/versed boluses
   - d/c propofol
   # Loose stool: Resolved. Monitor.
   # DM: SSI for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2138-07-19 11:44:00 Physician Attending Progress Note
Chief Complaint: Mets melanoma
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mets melanoma, endobronchial lesion s/p core
   24 Hour Events:
   2U PRBC with good Hct bump.
   TF started
   Started solumedrol and lasix to help improve chances to wean from vent.
   Still beeding from ETT. Unable to wean from vent.
   Urine output dropped off this morning
   Patient unable to provide history: Sedated
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-18**] 12:00 PM
   Cefipime - [**2138-7-19**] 12:52 AM
   Vancomycin - [**2138-7-19**] 08:44 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2138-7-19**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-19**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.2
   HR: 120 (93 - 128) bpm
   BP: 152/83(106) {100/51(68) - 152/83(106)} mmHg
   RR: 31 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
   CVP: 4 (3 - 11)mmHg
   Total In:
                                                                  3,118 mL
                                                                    607 mL
   PO:
   TF:
                                                                    613 mL
                                                                     47 mL
   IVF:
                                                                  1,605 mL
                                                                    531 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,200 mL
                                                                    600 mL
   Urine:
                                                                  2,200 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    918 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 92%
   ABG: 7.45/34/67/25/0
   Ve: 14.1 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Bronchial: , Rhonchorous with bilateral
   squeaks
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: verbal commands when sedation lightened
   Labs / Radiology
   10.3 g/dL
   118 K/uL
   186 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   14 mg/dL
   104 mEq/L
   137 mEq/L
   30.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2138-7-17**]  03:31 PM
                             [**2138-7-17**]  05:10 PM
                             [**2138-7-17**]  05:59 PM
                             [**2138-7-18**]  02:29 AM
                             [**2138-7-18**]  11:25 AM
                             [**2138-7-18**]  05:56 PM
                             [**2138-7-19**]  02:53 AM
                             [**2138-7-19**]  03:15 AM
                             [**2138-7-19**]  07:53 AM
                             [**2138-7-19**]  09:01 AM
   WBC
   5.4
   5.6
   Hct
   27.7
   23.8
   29.3
   31.8
   30.2
   Plt
   138
   118
   Cr
   0.3
   0.3
   TCO2
   22
   22
   27
   24
   24
   Glucose
   93
   186
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR:  fluctuating multifocal infiltrates
   Microbiology: No new
   Assessment and Plan
 .H/O MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   41 yom melanoma
 metastatic to lung, liver, heart, skin, bone and
   brain; s/p endobronchial core for hemoptysis. Has post obstructive
   pneumonia. Conitnues to have blood suctioned from ETT. Unable to wean
   from vent.
   - Resp: continue abx, increase peep to 10, check abg, wean FiO2
   thereafter, continue nebs and solumedrol. CVP 4, so as dry as can be.
   Poor prognosis. Will ask IP to bronch Monday. Wife updated on options
   including terminal extubation.
   - I/O: 250 cc bolus and check UO from condom cath, wife refuses foley
   due to prior traumatic experience. Will bladder scan if needed.
   -  ID:  Continue antimicrobials. Hx of cdiff, follow closely
   - DM: SSI
   - Rest per housestaff note
   ICU Care
    Nutrition:
   Comments: TF
   Glycemic Control:  ssi
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Wife updated during rounds.
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum
   Pt seen and examined, dicussed with team.
   Difficult situation for this 40 yr old man with met melanoma and resp
   failure
   IP to bedside for re brinch and he is bleeding from distal bronch
   intermed with clot but not profusely and intervention unlikely  to
   change overall course.
   100. 1  100-150/60 -80 hr 90-120
   AC 500 x 18 60% and PEEP 5 then 10 then 15, last ABG
                                   52*[1]
                                     41
                                    7.41
   Intubated and sedated, intermittent agitation
   Tachy RR
   Coarse BS bilat
   Abd soft +BS
   Ext trace edema
   Labs notable for HCT 30, BUN/Cr 14/0.3
   Very difficult case, progressive hypoxemic resp failure in setting of
   metastic disease and bleeding.
   Long meeting with family and IP
 no further interventions are likely
   to be of benefit. Wife understands this. Most important is that he
   never has dyspnea as he had a horrible experience with this.
   Will call catholic priest per family request.
   Parents and brother to come in.
   Moving towards comfort care
   Critical Care 45
   ------ Protected Section Addendum Entered By:[**Name (NI) 260**] [**Last Name (NamePattern1) 261**], MD
   on:[**2138-7-19**] 13:57 ------

2138-07-20 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting- family have left patient full code but would like to
   plan on a terminal extubation; however, patient was able to convey to
   the family that he does not want to give up
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-19**] 12:00 PM
   Vancomycin - [**2138-7-19**] 11:18 PM
   Cefipime - [**2138-7-20**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-19**] 12:14 PM
   Fentanyl - [**2138-7-19**] 12:40 PM
   Furosemide (Lasix) - [**2138-7-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-20**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 92 (85 - 120) bpm
   BP: 113/61(78) {96/54(69) - 152/84(107)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 11 (4 - 14)mmHg
   Total In:
                                                                  1,254 mL
                                                                    193 mL
   PO:
   TF:
                                                                     47 mL
   IVF:
                                                                  1,177 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    500 mL
   Urine:
                                                                  1,100 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 89%
   ABG: 7.41/41/52//0
   Ve: 9.4 L/min
   PaO2 / FiO2: 104
   Physical Examination
   GEN: intubated, following commands
   HEENT: PERRL, OG tube, ET tube
   CARD: tachycardic, regular rhythm, 3/5 SEM at the USB, hyperdynamic
   precordium
   PULM: scattered ronchi bilaterally anteriorlly and laterally with
   anterior squeaks
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, no c/c/e
   NEURO: following commands
   Labs / Radiology
   148 K/uL
   9.2 g/dL
   186 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.3 mEq/L
   14 mg/dL
   104 mEq/L
   137 mEq/L
   26.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2138-7-18**]  02:29 AM
                             [**2138-7-18**]  11:25 AM
                             [**2138-7-18**]  05:56 PM
                             [**2138-7-19**]  02:53 AM
                             [**2138-7-19**]  03:15 AM
                             [**2138-7-19**]  07:53 AM
                             [**2138-7-19**]  09:01 AM
                             [**2138-7-19**]  12:36 PM
                             [**2138-7-19**]  12:41 PM
                             [**2138-7-20**]  04:16 AM
   WBC
   5.4
   5.6
   5.9
   Hct
   23.8
   29.3
   31.8
   30.2
   27.0
   26.7
   Plt
   138
   118
   148
   Cr
   0.3
   0.3
   TCO2
   27
   24
   24
   27
   Glucose
   93
   186
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory distress:
   -continue treatement for PNA
   -Q6hr hct
   -aggressive suctioning
   -d/w IP on Monday for possible repeat rigid bronchoscopy
   -daily wake ups and SBT
   -hold tube feeds at midnight
   -fentanyl / versed for sedation
   # Metastatic melanoma:
   -onc following, request onc to see pt on Monday
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on tele
   - low threshold for echo to r/o tamponade
   # Anemia: On admission thought to be secondary to chemotherapy and has
   active hemorrhage. Hemolysis labs negative.
   - active type and screen
   - follow serial HCT, transfusion to keep Hct>30
   # Pain/hiccups:
   - continue fentanyl/versed boluses
   - d/c propofol
   # Loose stool: Resolved. Monitor.
   # DM: SSI for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-07-20 09:55:00 Physician Attending Progress Note
Chief Complaint: Metastatic melanoma with endobronchial lesions
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   s/p core endoscopy
   24 Hour Events:
   Patient woke up and said he wants to live and wants to be aggressive.
   Fresh blood in ETT
   Got lasix for diuresis
   History obtained from Patient
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-19**] 12:00 PM
   Cefipime - [**2138-7-20**] 04:00 AM
   Vancomycin - [**2138-7-20**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-19**] 12:14 PM
   Furosemide (Lasix) - [**2138-7-20**] 04:00 AM
   Lansoprazole (Prevacid) - [**2138-7-20**] 08:06 AM
   Fentanyl - [**2138-7-20**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-20**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 86 (85 - 112) bpm
   BP: 108/58(74) {96/54(69) - 150/84(107)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 11 (6 - 14)mmHg
   Total In:
                                                                  1,254 mL
                                                                    539 mL
   PO:
   TF:
                                                                     47 mL
   IVF:
                                                                  1,177 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    820 mL
   Urine:
                                                                  1,100 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 26 cmH2O
   Plateau: 28 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/41/52/25/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Bronchial: , Rhonchorous with bilateral
   squeaks
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: AAO x 3
   Labs / Radiology
   9.2 g/dL
   148 K/uL
   157 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   104 mEq/L
   139 mEq/L
   26.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2138-7-18**]  02:29 AM
                             [**2138-7-18**]  11:25 AM
                             [**2138-7-18**]  05:56 PM
                             [**2138-7-19**]  02:53 AM
                             [**2138-7-19**]  03:15 AM
                             [**2138-7-19**]  07:53 AM
                             [**2138-7-19**]  09:01 AM
                             [**2138-7-19**]  12:36 PM
                             [**2138-7-19**]  12:41 PM
                             [**2138-7-20**]  04:16 AM
   WBC
   5.4
   5.6
   5.9
   Hct
   23.8
   29.3
   31.8
   30.2
   27.0
   26.7
   Plt
   138
   118
   148
   Cr
   0.3
   0.3
   0.3
   TCO2
   27
   24
   24
   27
   Glucose
   93
   186
   157
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 .H/O MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
    41 yom melanoma
 metastatic to lung, liver, heart, skin, bone and
   brain; s/p endobronchial core for hemoptysis. Has post obstructive
   pneumonia. Conitnues to have blood suctioned from ETT. Unable to wean
   from vent, but trying. Bronched by IP yesterday..small bleeder in [**Hospital1 **]
   but not much intervention required.
   - Resp: continue abx, decrease peep and FiO2 per ABG. Start steroid
   taper. Continue nebs. Keep CVP as low as possible.
   Trach/peg vs bipap discussed if minute ventilation and oxygenation can
   be managed.
   - Heme: Keep Hct 25
   - I/O: Keep CVP 4 with blood/lasix/. Wife refuses foley due to prior
   traumatic experience. Will bladder scan if needed.
   -  ID:  Continue antimicrobials x 10 days total. Hx of cdiff, follow
   closely
   - DM: SSI
   - Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  ssi
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Wife updated during rounds.
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   After difficult day yesterday
 some improvement in O2 needs. Remains
   entirely vent dependent however.  Goals of care continually in flux.
   Exam notable for Tmax: 36.6
C (97.9
F)   Tcurrent: 36.6
C (97.9
   HR: 86 (85 - 112) bpm  BP: 108/58(74) {96/54(69) - 150/84(107)} mmHg
   RR: 18 (13 - 29) insp/min   SpO2: 98% Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (6 - 14)mmHg Balance:   154 mL
   CMV  18/500/10/.5     Plateau: 28 cmH2O   SpO2: 98%    ABG
   7.45/41/91      Ve: 11.2 L/min
   Thin, sedated, intubated
   Coarse vented BS
   RRR
   Abd benign
   Extrem thin
   Labs reviewed and recorded above
   Imaging:    CXR yesterday with stable infiltrates
   Problems: resp failure, metastatic melanoma, pulmonary hemorrhage
   Agree with plan to await decision by patient/family regarding goals of
   care, cont vent support
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2138-7-20**] 14:20 ------

2138-07-21 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Patient would like to continue aggressively
   -Weaned PEEP in am and tolerated well
   -6 pm, PaO2 64, tachycardic, more uncomfortable. Increased PEEP to 10,
   FIO2 to 60%.  Sedation. Did not tolerate any further vent changes
   -10 mg IV Lasix for increased O2 requirement with 600 cc UOP. No change
   in suction output
   -Initiated Trach/Peg discussion
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-20**] 12:01 PM
   Vancomycin - [**2138-7-20**] 08:13 PM
   Cefipime - [**2138-7-21**] 01:32 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2138-7-20**] 08:06 AM
   Midazolam (Versed) - [**2138-7-20**] 06:14 PM
   Furosemide (Lasix) - [**2138-7-20**] 06:34 PM
   Fentanyl - [**2138-7-21**] 01:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-21**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 99 (78 - 106) bpm
   BP: 123/69(86) {106/58(73) - 136/78(97)} mmHg
   RR: 20 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (4 - 13)mmHg
   Total In:
                                                                  1,413 mL
                                                                    546 mL
   PO:
   TF:
                                                                    165 mL
                                                                    316 mL
   IVF:
                                                                  1,157 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    480 mL
   Urine:
                                                                  1,710 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -297 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.45/42/64/27/4
   Ve: 11.8 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   170 K/uL
   9.0 g/dL
   165 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   27 mg/dL
   103 mEq/L
   139 mEq/L
   26.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2138-7-19**]  12:36 PM
                             [**2138-7-19**]  12:41 PM
                             [**2138-7-20**]  04:16 AM
                             [**2138-7-20**]  09:40 AM
                             [**2138-7-20**]  11:06 AM
                             [**2138-7-20**]  12:54 PM
                             [**2138-7-20**]  01:02 PM
                             [**2138-7-20**]  05:24 PM
                             [**2138-7-20**]  09:16 PM
                             [**2138-7-21**]  05:36 AM
   WBC
   5.9
   6.6
   Hct
   27.0
   26.7
   26.6
   26.6
   26.6
   Plt
   148
   170
   Cr
   0.3
   0.3
   TCO2
   27
   29
   29
   29
   30
   Glucose
   157
   165
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory distress:  has not tolerated attempts to wean PEEP or
   FiO2.  Bolus sedation as he has periods of
   agitation/tachypnea/tachycardia.  Continue antibiotics, last day [**7-23**].
   -wean steroids to 40 IV q12
   - decrease PEEP as tolerated after bronch with serial ABGs
   - IP to bronch today
   -continue tube feeds, hold after MN
   # Metastatic melanoma:  onc following, no melanoma treatment options
   remain. Appreciate assistance with ongoing discussion with family.
   - will attempt to set up meeting with all medical teams involved
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on tele
   - low threshold for echo to r/o tamponade
   # Anemia:
   -[**Hospital1 **] Hct
   -active type and screen
   # Pain/hiccups:
   - continue fentanyl/versed boluses and prn oxycodone
   - will c/s palliative care for pain management
   # Loose stool: Resolved. Monitor.
   # DM: SSI for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-7-21**] 05:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2138-07-21 11:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 yo man with metastatic melanoma, presented with hemoptysis due to
   endobronchial lesions.   Continued respiratory failure due to
   hemoptysis and
   poor lung compliance from mets.  Prior to hosptilization, patient was
   chronically ill, with limited functional status at home.
   24 Hour Events:
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-20**] 12:01 PM
   Cefipime - [**2138-7-21**] 01:32 AM
   Vancomycin - [**2138-7-21**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-20**] 06:14 PM
   Furosemide (Lasix) - [**2138-7-20**] 06:34 PM
   Fentanyl - [**2138-7-21**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-21**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 81 (78 - 106) bpm
   BP: 115/61(77) {106/59(73) - 136/78(97)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 6 (6 - 13)mmHg
   Total In:
                                                                  1,413 mL
                                                                  1,195 mL
   PO:
   TF:
                                                                    165 mL
                                                                    593 mL
   IVF:
                                                                  1,157 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    730 mL
   Urine:
                                                                  1,710 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -297 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/43/121/27/4
   Ve: 11.5 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   170 K/uL
   165 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   27 mg/dL
   103 mEq/L
   139 mEq/L
   26.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2138-7-19**]  12:41 PM
                             [**2138-7-20**]  04:16 AM
                             [**2138-7-20**]  09:40 AM
                             [**2138-7-20**]  11:06 AM
                             [**2138-7-20**]  12:54 PM
                             [**2138-7-20**]  01:02 PM
                             [**2138-7-20**]  05:24 PM
                             [**2138-7-20**]  09:16 PM
                             [**2138-7-21**]  05:36 AM
                             [**2138-7-21**]  08:11 AM
   WBC
   5.9
   6.6
   Hct
   26.7
   26.6
   26.6
   26.6
   Plt
   148
   170
   Cr
   0.3
   0.3
   TCO2
   27
   29
   29
   29
   30
   29
   Glucose
   157
   165
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Microbiology: BAL:  NGTD
   Assessment and Plan
   Respiratory failure:  Due to continued bleeding and endobronchial
   lesions.  Continue to wean Peep as needed.    Not tolerating
   spontaneous breathing trials.  Prognosis overall very poor for coming
   off the ventilator.
   Anemia:  Hct has been stable
   Pain control:  will start more long term pain control with fentanyl
   patch
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-7-21**] 05:01 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : ICU
   Total time spent: 35 minutes, critically ill

2138-07-22 05:34:00 Physician Resident Progress Note
24 Hour Events:
 BRONCHOSCOPY - At [**2138-7-21**] 05:32 PM
   - continued on PS 15/10 FiO2 50%
   - ONC: continue to be aggressive
   - IP: bronched, to OR for Argonne treatment
   - rad onc: if pt improves, may restart radiation treatment
   - continued to discuss trach/peg with family
   - decreased MethylPREDNISolone Sodium Succ 40 mg IV Q 12H
   - palliative care c/s --> recommend pain c/s and will talk tomorrow
   - increased fentanyl for pain
   - transfuse 1 pRBC for falling Hct prior to OR
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-21**] 12:00 PM
   Cefipime - [**2138-7-21**] 12:42 PM
   Vancomycin - [**2138-7-21**] 08:22 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2138-7-21**] 06:40 PM
   Fentanyl - [**2138-7-22**] 03:40 AM
   Midazolam (Versed) - [**2138-7-22**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-22**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 79 (79 - 110) bpm
   BP: 117/60(77) {108/58(72) - 160/92(115)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  2,441 mL
                                                                    203 mL
   PO:
   TF:
                                                                    876 mL
   IVF:
                                                                  1,324 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    240 mL
   Urine:
                                                                  1,650 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 415 (415 - 576) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/47/98.[**Numeric Identifier 500**]/29/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress, Thin, intubated, nods yes/no to
   questions
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: ) ronchi
   on right>>left
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   8.1 g/dL
   152 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   27 mg/dL
   105 mEq/L
   141 mEq/L
   24.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2138-7-20**]  11:06 AM
                             [**2138-7-20**]  12:54 PM
                             [**2138-7-20**]  01:02 PM
                             [**2138-7-20**]  05:24 PM
                             [**2138-7-20**]  09:16 PM
                             [**2138-7-21**]  05:36 AM
                             [**2138-7-21**]  08:11 AM
                             [**2138-7-21**]  03:29 PM
                             [**2138-7-22**]  03:10 AM
                             [**2138-7-22**]  03:21 AM
   WBC
   6.6
   6.7
   Hct
   26.6
   26.6
   26.6
   24.7
   Plt
   170
   143
   Cr
   0.3
   0.3
   TCO2
   29
   29
   30
   29
   29
   30
   Glucose
   165
   152
   Other labs: PT / PTT / INR:13.6/26.7/1.2, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory distress:  has not tolerated attempts to wean PEEP or
   FiO2.  Bolus sedation as he has periods of
   agitation/tachypnea/tachycardia.  Continue antibiotics, last day [**7-23**].
   -wean steroids to 40 IV q12
   - hold on vent changes pending procedure
   - IP to take to OR today
   -continue tube feeds, hold after MN
   # Metastatic melanoma:  onc following, no melanoma treatment options
   remain. Appreciate assistance with ongoing discussion with family.
   - will attempt to set up meeting with all medical teams involved
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on tele
   - low threshold for echo to r/o tamponade
   # Anemia:
   -[**Hospital1 **] Hct
   -active type and screen
   # Pain/hiccups:
   - continue fentanyl/versed boluses and prn oxycodone
   - will c/s palliative care for pain management
   # Loose stool: Resolved. Monitor.
   # DM: SSI for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2138-07-22 10:33:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 yo man with metastatic melanoma and respiratory failure due to
   endobronchial hemorrhage.  To go to OR this morning to get cautery to
   prevent further bleeding.
   24 Hour Events:
 BRONCHOSCOPY - At [**2138-7-21**] 05:32 PM
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-21**] 12:00 PM
   Cefipime - [**2138-7-21**] 12:42 PM
   Vancomycin - [**2138-7-22**] 08:07 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2138-7-21**] 06:40 PM
   Fentanyl - [**2138-7-22**] 03:40 AM
   Midazolam (Versed) - [**2138-7-22**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-22**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 100 (72 - 110) bpm
   BP: 139/78(100) {108/58(72) - 160/92(115)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
   CVP: 4 (4 - 7)mmHg
   Total In:
                                                                  2,441 mL
                                                                    922 mL
   PO:
   TF:
                                                                    876 mL
   IVF:
                                                                  1,324 mL
                                                                    572 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,650 mL
                                                                    660 mL
   Urine:
                                                                  1,650 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 534 (415 - 576) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.40/47/98.[**Numeric Identifier 500**]/29/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   143 K/uL
   152 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   27 mg/dL
   105 mEq/L
   141 mEq/L
   24.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2138-7-20**]  11:06 AM
                             [**2138-7-20**]  12:54 PM
                             [**2138-7-20**]  01:02 PM
                             [**2138-7-20**]  05:24 PM
                             [**2138-7-20**]  09:16 PM
                             [**2138-7-21**]  05:36 AM
                             [**2138-7-21**]  08:11 AM
                             [**2138-7-21**]  03:29 PM
                             [**2138-7-22**]  03:10 AM
                             [**2138-7-22**]  03:21 AM
   WBC
   6.6
   6.7
   Hct
   26.6
   26.6
   26.6
   24.7
   Plt
   170
   143
   Cr
   0.3
   0.3
   TCO2
   29
   29
   30
   29
   29
   30
   Glucose
   165
   152
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure:  to OR today to try and control further bleeding.
   Will continue to try and wean him after OR.  Hope is that
   control of bleeding will allow for wean.
   metastaic melanoma
   pain:  may need thoracic nerve block for pain relief - seen by
   palliative care and pain service
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2138-07-23 06:28:00 Physician Resident Progress Note
24 Hour Events:
   - underwent bronch in OR- superior segment of RLL and posterior segment
   of RLL w/ bleeding- s/p argon, per IP will need IR for embolization of
   RLL- have contact[**Name (NI) **] IR and they have consented the patient for
   procedure [**7-23**].  Patient left on propofol as per family they think he
   is more comfortable like this for now and would have less coughing etc
   post bronch
   -OG tube and ET tube in good position, tube feeds started p.m. [**7-22**] and
   stopped at MN
   -per pain service options are: short-term tunneled epidural catheter vs
   intrathecal catheter. Treatment option will depend on definitive
   planning as [**Hospital1 69**] not likely to take patient with intrathecal or epidural
   catheter.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Cefipime - [**2138-7-22**] 01:03 PM
   Levofloxacin - [**2138-7-22**] 01:26 PM
   Vancomycin - [**2138-7-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-23**] 02:31 AM
   Fentanyl - [**2138-7-23**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-23**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 80 (63 - 100) bpm
   BP: 145/72(94) {121/58(78) - 157/80(101)} mmHg
   RR: 18 (11 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (0 - 9)mmHg
   Total In:
                                                                  2,566 mL
                                                                    172 mL
   PO:
   TF:
                                                                    342 mL
   IVF:
                                                                  1,753 mL
                                                                    172 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,485 mL
                                                                    520 mL
   Urine:
                                                                  1,485 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (449 - 540) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.42/48/161/29/6
   Ve: 7 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: No acute distress, Thin, intubated, nods yes/no to
   questions
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Hyperdynamic), no m/r/g, normal S1 and S2
   Respiratory / Chest: ronchi on right>>left
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+ edema
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   145 K/uL
   8.6 g/dL
   147 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   22 mg/dL
   103 mEq/L
   141 mEq/L
   25.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2138-7-20**]  05:24 PM
                             [**2138-7-20**]  09:16 PM
                             [**2138-7-21**]  05:36 AM
                             [**2138-7-21**]  08:11 AM
                             [**2138-7-21**]  03:29 PM
                             [**2138-7-22**]  03:10 AM
                             [**2138-7-22**]  03:21 AM
                             [**2138-7-22**]  02:57 PM
                             [**2138-7-22**]  04:19 PM
                             [**2138-7-23**]  04:11 AM
   WBC
   6.6
   6.7
   7.6
   Hct
   26.6
   26.6
   24.7
   25.3
   Plt
   170
   143
   145
   Cr
   0.3
   0.3
   0.3
   TCO2
   30
   29
   29
   30
   31
   32
   Glucose
   165
   152
   147
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory failure:  likely with post-obstructive pna, hemoptysis
   [**3-3**] endobronchial lesions from metastatic melanoma. Unsuccessful IR
   Argon treatment yesterday
   - continue levo/cefepime/vanc (last day today, d/c abx tomorrow AM)
   - to OR today for embolization
   -attempt to wean vent settings
   - continue trach discussion
   - IV steroids 20 mg [**Hospital1 **] x today, IV steroids 10 mg IV BID [**7-24**] and then
   off
   # Metastatic melanoma:  onc following, no melanoma treatment options
   remain. Appreciate assistance with ongoing discussion with family.
   - if pt stabilizes, rad onc treatments to be planned
   - onc following
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on telemetry
   - low threshold for echo to r/o tamponade
   # Anemia: likely [**3-3**] hemopysis
   - daily Hct
   - transfuse for goal Hct>25
   -active type and screen
   # Pain:
   - continue fentanyl/versed boluses and prn oxycodone
   - appreciated pain/palliative input
 need a follow up plan as
   intrathecal catheter not cared for at rehab, if this is not option,
   then will need to reinstutue pain regimen with fentanyl patch
   # Constipation: standing bowel regimen
   # DM: SSI for now
   ICU Care
   Nutrition: restart TF s/p procedure
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  HOB, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2138-07-23 09:42:00 Physician Attending Progress Note
Chief Complaint: Hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   mets melanoma
   24 Hour Events:
   RLL bleeder interveneted with argon and cauterization with good
   results.
   However, further fresh blood again this am from ETT
   Gone for RLL bronchial artery embolization today
   Appreciate pain consult
   Constipated
   Switched to MMV due to apnea on sedation
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Cefipime - [**2138-7-22**] 01:03 PM
   Levofloxacin - [**2138-7-22**] 01:26 PM
   Vancomycin - [**2138-7-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-23**] 06:45 AM
   Fentanyl - [**2138-7-23**] 07:15 AM
   Lansoprazole (Prevacid) - [**2138-7-23**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-23**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 76 (63 - 100) bpm
   BP: 144/74(92) {126/58(78) - 157/80(101)} mmHg
   RR: 18 (11 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 73 Inch
   CVP: 2 (0 - 9)mmHg
   Total In:
                                                                  2,566 mL
                                                                    514 mL
   PO:
   TF:
                                                                    342 mL
   IVF:
                                                                  1,753 mL
                                                                    514 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,485 mL
                                                                    800 mL
   Urine:
                                                                  1,485 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 349 (349 - 540) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.42/48/161/29/6
   Ve: 12.5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 1+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   145 K/uL
   147 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   22 mg/dL
   103 mEq/L
   141 mEq/L
   25.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2138-7-20**]  05:24 PM
                             [**2138-7-20**]  09:16 PM
                             [**2138-7-21**]  05:36 AM
                             [**2138-7-21**]  08:11 AM
                             [**2138-7-21**]  03:29 PM
                             [**2138-7-22**]  03:10 AM
                             [**2138-7-22**]  03:21 AM
                             [**2138-7-22**]  02:57 PM
                             [**2138-7-22**]  04:19 PM
                             [**2138-7-23**]  04:11 AM
   WBC
   6.6
   6.7
   7.6
   Hct
   26.6
   26.6
   24.7
   25.3
   Plt
   170
   143
   145
   Cr
   0.3
   0.3
   0.3
   TCO2
   30
   29
   29
   30
   31
   32
   Glucose
   165
   152
   147
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   CXR: unchanged
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
    - Respiratory failure: continues to bleed inspite of 2 IP
   endobronchial procedures. To IR for RLL BA embolization today. Will
   reattampt vent wean thereafter. Likely trach/peg. Will complete abx for
   post obs pna today. Wean off steroids (introduced for post-bronch
   inflammation).
   - HD: stable
   - metastaic melanoma: appreciate onc input
   - pain:  may need thoracic nerve block for pain relief - seen by
   palliative care and pain service, appreciate their input
   - constipation: added bowel regimen
   - rest per housestaff note
   ICU Care
   Nutrition: NPO for IR
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 3883**] and housestaff MICU team.
   Reviewed above note with which I agree.  Would add/emphasize:  41 yo
   with widely metastatic melanoma, admitted with massive hemoptysis,
   respiratory failure:  Went for bronchial artery embolization today.
   O/E sedated
   Lungs:  b/L Rhonchi
   CV:  reg
   Abd: soft
   Ext:  no edema
   A/P
   Respiratory failure;  Will try and wean ventilator as tolerated.
   Success will partially depend on the control of bleeding from the
   endobronchial lesion embolized today.
   Pain:  may need thoracic nerve block.  Start Fentanyl patch for pain,
   continue Fentanyl drip.
   Cc 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2138-7-23**] 12:41 ------

2138-07-24 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -IR embolization of RLL bronchial artery. Had blood suctioned upon
   return
   -Decreased vent settings over course of day and tolerated [**6-3**] very
   well. Plan for extubation in am.
   -Pain plan: changed back to versed/fentanyl gtt. Started fentanyl patch
   at 200 mcg/hr and decreasing versed gtt
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-23**] 01:01 PM
   Vancomycin - [**2138-7-23**] 08:00 PM
   Cefipime - [**2138-7-24**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-7-23**] 06:45 AM
   Lansoprazole (Prevacid) - [**2138-7-23**] 08:12 AM
   Fentanyl - [**2138-7-23**] 01:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2138-7-24**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 82 (66 - 99) bpm
   BP: 139/67(88) {134/64(83) - 161/81(105)} mmHg
   RR: 24 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 73 Inch
    CVP: 8 (1 - 11)mmHg
   Total In:
                                                                  1,794 mL
                                                                    136 mL
   PO:
   TF:
                                                                    400 mL
   IVF:
                                                                  1,274 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    855 mL
   Urine:
                                                                  2,320 mL
                                                                    855 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -531 mL
                                                                   -719 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 404 (349 - 583) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 13 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.45/47/119/32/8
   Ve: 9.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI No(t) Normal, Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   133 K/uL
   8.3 g/dL
   138 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.8 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   24.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2138-7-21**]  03:29 PM
                             [**2138-7-22**]  03:10 AM
                             [**2138-7-22**]  03:21 AM
                             [**2138-7-22**]  02:57 PM
                             [**2138-7-22**]  04:19 PM
                             [**2138-7-23**]  04:11 AM
                             [**2138-7-23**]  02:37 PM
                             [**2138-7-23**]  04:10 PM
                             [**2138-7-23**]  05:10 PM
                             [**2138-7-24**]  03:22 AM
   WBC
   6.7
   7.6
   7.6
   Hct
   24.7
   25.3
   24.6
   Plt
   143
   145
   133
   Cr
   0.3
   0.3
   0.2
   TCO2
   29
   30
   31
   32
   33
   32
   34
   Glucose
   152
   147
   138
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory failure:  likely with post-obstructive pna, hemoptysis
   [**3-3**] endobronchial lesions from metastatic melanoma. Unsuccessful IR
   Argon treatment yesterday
   - continue levo/cefepime/vanc (last day today, d/c abx tomorrow AM)
   - to OR today for embolization
   -attempt to wean vent settings
   - continue trach discussion
   - IV steroids 20 mg [**Hospital1 **] x today, IV steroids 10 mg IV BID [**7-24**] and then
   off
   # Metastatic melanoma:  onc following, no melanoma treatment options
   remain. Appreciate assistance with ongoing discussion with family.
   - if pt stabilizes, rad onc treatments to be planned
   - onc following
   # s/p V Tach: Patient has metastatic involvement of myocardium which
   placed him at risk of developing arrhythmia during episode of hypoxia.
   - holding metoprolol due to low blood pressure
   - monitor on telemetry
   - low threshold for echo to r/o tamponade
   # Anemia: likely [**3-3**] hemopysis
   - daily Hct
   - transfuse for goal Hct>25
   -active type and screen
   # Pain:
   - continue fentanyl/versed boluses and prn oxycodone
   - appreciated pain/palliative input
 need a follow up plan as
   intrathecal catheter not cared for at rehab, if this is not option,
   then will need to reinstutue pain regimen with fentanyl patch
   # Constipation: standing bowel regimen
   # DM: SSI for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-07-24 09:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 yo man with metastaic melenoma, massive hemoptysis.  Had bronchial
   artery embolization.   Still having bloody secretions, but was able to
   wean down.
   24 Hour Events:
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-23**] 01:01 PM
   Cefipime - [**2138-7-24**] 12:00 AM
   Vancomycin - [**2138-7-24**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2138-7-23**] 01:45 PM
   Midazolam (Versed) - [**2138-7-24**] 02:00 AM
   Lansoprazole (Prevacid) - [**2138-7-24**] 08:00 AM
   Other medications:
   lexipro
   methylpred 20 q12
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-24**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 93 (66 - 99) bpm
   BP: 155/80(103) {134/64(83) - 161/81(105)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 73 Inch
   CVP: 8 (1 - 11)mmHg
   Total In:
                                                                  2,120 mL
                                                                    475 mL
   PO:
   TF:
                                                                    725 mL
   IVF:
                                                                  1,274 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  1,045 mL
   Urine:
                                                                  2,320 mL
                                                                  1,045 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -205 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 778 (404 - 778) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/47/119/32/8
   Ve: 8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   133 K/uL
   138 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.8 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   24.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2138-7-21**]  03:29 PM
                             [**2138-7-22**]  03:10 AM
                             [**2138-7-22**]  03:21 AM
                             [**2138-7-22**]  02:57 PM
                             [**2138-7-22**]  04:19 PM
                             [**2138-7-23**]  04:11 AM
                             [**2138-7-23**]  02:37 PM
                             [**2138-7-23**]  04:10 PM
                             [**2138-7-23**]  05:10 PM
                             [**2138-7-24**]  03:22 AM
   WBC
   6.7
   7.6
   7.6
   Hct
   24.7
   25.3
   24.6
   Plt
   143
   145
   133
   Cr
   0.3
   0.3
   0.2
   TCO2
   29
   30
   31
   32
   33
   32
   34
   Glucose
   152
   147
   138
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure:  Looks great on PSV 5/5, but still having bloody
   secretions.  Unclear if he will be able to tolerate extubation, but
   confirmed that he
   wants to be reintubated.  Will go ahead with extubation.
   CXR with LLL collapse, but likely intermittent no specific therapy for
   it besides chest PT after extubation.
   Pain:  Currently well controlled.   Not complaining of pain.
   [**Month (only) 11**] need PIC Line long term so will move towards placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-07-25 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-7-24**] 09:36 AM
   - Extubated but still with increased WOB
   - patient decided to be DNR/DNI
   - IR recs: nothing new
   - Contact[**Name (NI) **] Oncologist who agreed with plan
   - Pain will see today for ? epidural/intrathecal catheter for pain
   - Palliative recs: increase fentanyl, continue ativan gtt
   - d/c antibiotics
   - decreased steroids to 10 [**Hospital1 **]
   - pt declined PIV attempt, so CVL still in
   - R DP pulse not palpated, color doppler with faint pulse, wife told of
   options if arterial occlusion occurred --> wanted warm pads
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-23**] 01:01 PM
   Cefipime - [**2138-7-24**] 12:00 AM
   Vancomycin - [**2138-7-24**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Lorazepam (Ativan) - 0.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2138-7-24**] 08:00 AM
   Lorazepam (Ativan) - [**2138-7-24**] 07:30 PM
   Metoprolol - [**2138-7-24**] 08:00 PM
   Fentanyl - [**2138-7-25**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-25**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 85 (85 - 123) bpm
   BP: 124/66(86) {122/64(86) - 177/88(116)} mmHg
   RR: 27 (15 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 73 Inch
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                    657 mL
                                                                    128 mL
   PO:
   TF:
   IVF:
                                                                    607 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    565 mL
   Urine:
                                                                  2,280 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,623 mL
                                                                   -437 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 778 (778 - 778) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.47/45/63/36/7
   Ve: 8 L/min
   PaO2 / FiO2: 66
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI No(t) Normal, Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   126 K/uL
   9.1 g/dL
   154 mg/dL
   0.3 mg/dL
   36 mEq/L
   4.5 mEq/L
   16 mg/dL
   98 mEq/L
   140 mEq/L
   27.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2138-7-22**]  02:57 PM
                             [**2138-7-22**]  04:19 PM
                             [**2138-7-23**]  04:11 AM
                             [**2138-7-23**]  02:37 PM
                             [**2138-7-23**]  04:10 PM
                             [**2138-7-23**]  05:10 PM
                             [**2138-7-24**]  03:22 AM
                             [**2138-7-24**]  08:45 AM
                             [**2138-7-24**]  11:28 AM
                             [**2138-7-25**]  04:06 AM
   WBC
   7.6
   7.6
   14.4
   Hct
   25.3
   24.6
   27.8
   Plt
   145
   133
   126
   Cr
   0.3
   0.2
   0.3
   TCO2
   31
   32
   33
   32
   34
   34
   34
   Glucose
   147
   138
   154
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   41y.o M with metastatic melanoma admitted with post-obstructive
   pneumonia s/p intubation and rigid bronchoscopy on [**2138-7-18**].
   # Respiratory failure:
   -s/p embolization of RLL bronchial artery
   -attempt at extubation today as on [**6-3**] and 50% FiO2
   -repeat CXR in the a.m. given LLL collapse
   -d/c antibiotics
   -wean steroids to 10mg IV solumedrol [**Hospital1 **] x today then discontinue on
   [**7-25**]
   -continue to f/u IR and IP recs
   -if fails may need trach
   # Metastatic melanoma:  onc following, no melanoma treatment options
   remain.
   -possible XRT treatment for palliation if successful extubation
   # s/p V Tach:
   -restart beta blocker
   -tele
   -was in the setting of severe hypoxia related to difficult intubation
   # Anemia: likely [**3-3**] hemopysis
   -trend hct daily, transfuse for hct < 25 but hold today given planned
   extubation
   # Pain: fentanyl patch
   -f/u pain / palliative care recs
   - appreciated pain/palliative input
 need a follow up plan as
   intrathecal catheter not cared for at rehab, if this is not option,
   then will need to reinstutue pain regimen with fentanyl patch
   # Constipation: standing bowel regimen
   # DM: SSI for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-07-25 09:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 yo man with metastatic melanoma.  Extubated yesterday, unable to
   clear secretions.  he decided that he did not want reintubation.
   Currently on fentanyl and ativan drips.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-7-24**] 09:36 AM
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Penicillins
   Hives;
   Adhesive Tape (Topical)
   Rash; severe it
   Last dose of Antibiotics:
   Levofloxacin - [**2138-7-23**] 01:01 PM
   Cefipime - [**2138-7-24**] 12:00 AM
   Vancomycin - [**2138-7-24**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Lorazepam (Ativan) - 0.5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-7-24**] 07:30 PM
   Metoprolol - [**2138-7-24**] 08:00 PM
   Fentanyl - [**2138-7-25**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-25**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96
   HR: 96 (85 - 123) bpm
   BP: 98/53(70) {98/53(70) - 177/88(116)} mmHg
   RR: 28 (21 - 33) insp/min
   SpO2: 82%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 73 Inch
   CVP: 7 (7 - 9)mmHg
   Total In:
                                                                    657 mL
                                                                    166 mL
   PO:
   TF:
   IVF:
                                                                    607 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    675 mL
   Urine:
                                                                  2,280 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,623 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   FiO2: 95%
   SpO2: 82%
   ABG: 7.47/45/63/36/7
   PaO2 / FiO2: 66
   Physical Examination
   Eyes / Conjunctiva: No(t) PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left side)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   126 K/uL
   154 mg/dL
   0.3 mg/dL
   36 mEq/L
   4.5 mEq/L
   16 mg/dL
   98 mEq/L
   140 mEq/L
   27.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2138-7-22**]  02:57 PM
                             [**2138-7-22**]  04:19 PM
                             [**2138-7-23**]  04:11 AM
                             [**2138-7-23**]  02:37 PM
                             [**2138-7-23**]  04:10 PM
                             [**2138-7-23**]  05:10 PM
                             [**2138-7-24**]  03:22 AM
                             [**2138-7-24**]  08:45 AM
                             [**2138-7-24**]  11:28 AM
                             [**2138-7-25**]  04:06 AM
   WBC
   7.6
   7.6
   14.4
   Hct
   25.3
   24.6
   27.8
   Plt
   145
   133
   126
   Cr
   0.3
   0.2
   0.3
   TCO2
   31
   32
   33
   32
   34
   34
   34
   Glucose
   147
   138
   154
   Other labs: PT / PTT / INR:14.9/24.2/1.3, CK / CKMB /
   Troponin-T:26/3/0.02, ALT / AST:29/28, Alk Phos / T Bili:217/0.8,
   Fibrinogen: 91, Lactic Acid:1.1 mmol/L, LDH:287 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GRIEVING
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
 DYSPNEA (SHORTNESS OF BREATH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
   Currently looks comfortable.  Patient is comfort measures only.  Wife
   at bedside and aware appreciates our care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2138-7-16**] 03:47 PM
   Multi Lumen - [**2138-7-16**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 20 minutes